US07807709B2
c. Trifluoro-methanesulfonic acid 3-trifluoromethoxy-propyl ester
Following a similar procedure as described in J. Org. Chem. (2001), 66, 1061-1063, 1-ethoxy-3-trifluoromethoxy-propane (1.50 g, 6.10 mmol) is added to a mixture of trifluoromethanesulfonic anhydride (4.04 mL, 23.8 mmol) and trifluoromethanesulfonic acid (0.15 mL, 1.65 mmol) with stirring. The mixture is heated at 60° C. overnight, cooled to room temperature and poured into ice-water. The aqueous layer is extracted with CH2Cl2, the combined organics are dried over Na2SO4 and filtered. Volatiles are removed by distillation at normal pressure (bath temperature at 65° C.) to give a mixture of trifluoro-methanesulfonic acid ethyl ester and the title compound as pale yellow liquid (used without further purification). 1H-NMR (CDCl3): δ 2.25 (m, 2H), 4.16 (m, 2H), 4.70 (m, 2H) ppm.

reactant | 1-ethoxy-3-trifluoromethoxy-propane | 6.10 mmol, 1.50 g | C(C)OCCCOC(F)(F)F | C6H11F3O2
reactant | trifluoromethanesulfonic anhydride | 23.8 mmol, 4.04 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | trifluoromethanesulfonic acid | 1.65 mmol, 0.15 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | trifluoro-methanesulfonic acid ethyl ester | C(C)OS(=O)(=O)C(F)(F)F | C3H5F3O3S
product | Trifluoro-methanesulfonic acid 3-trifluoromethoxy-propyl ester | FC(OCCCOS(=O)(=O)C(F)(F)F)(F)F | C5H6F6O4S
